US06919332B2
To a solution of 5-(4-methoxy-phenoxy)-1H-indazole (0.20 grams, 0.83 mmol) in 1 mL of dimethylformamide was added sodium hydride (0.040 grams of a 60% dispersion in mineral oil, 1.0 mmol). After shaking at room temperature for 10 minutes, the mixture was treated with 4-fluorobenzonitrile (0.11 grams, 0.9 mmol). The mixture was heated to 50° C. for 6 hours. After cooling to room temperature, the mixture was diluted with water and was extracted 3 times with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with 0-30% ethyl acetate in hexanes, affording 4-[5-(4-Methoxy-phenoxy)-indazol-1-yl]-benzonitrile (110 miligrams) MS: 342.4 [M+H]+ and 4-[5-(4-Methoxy-phenoxy)-indazol-2-yl-]-benzonitrile (75 miligrams) MS: 342.4 [M+H]+ as colorless syrups.

reactant | 5-(4-methoxy-phenoxy)-1H-indazole | 0.83 mmol, 0.20 grams | COC1=CC=C(OC=2C=C3C=NNC3=CC2)C=C1 | C14H12N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | 4-fluorobenzonitrile | 0.9 mmol, 0.11 grams | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[5-(4-Methoxy-phenoxy)-indazol-1-yl]-benzonitrile | COC1=CC=C(OC=2C=C3C=NN(C3=CC2)C2=CC=C(C#N)C=C2)C=C1 | C21H15N3O2
